US04939262
6-Ethyl-4-hydroxy-3-nitro-1-H-2-pyridone
20 g (0.145 mol) of 6-ethyl-4-hydroxy-1-H-2pyridone are suspended in 60 ml of 65% strength HNO3 and heated to 65° C. The strongly exothermic reaction is kept under control by cooling with ice. After the reaction subsides, 120 ml of water are added and the mixture is cooled with ice. After 30 minutes, the precipitate is filtered off with suction and dried.

reactant | 6-ethyl-4-hydroxy-1-H-2pyridone | 0.145 mol, 20 g | C(C)C1=CC(=CC(N1)=O)O | C7H9NO2
reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
solvent | water | 120 ml | O | H2O
product | 6-Ethyl-4-hydroxy-3-nitro-1-H-2-pyridone | C(C)C1=CC(=C(C(N1)=O)[N+](=O)[O-])O | C7H8N2O4
